US04159374
(1)A solution of carbobenzoxy-L-alanine (4.48 g) in tetrahydrofuran (15 ml) is mixed with phosphorus pentachloride (4.58 g) to give a solution of carbobenzoxy-L-alanyl chloride in tetrahydrofuran, which is added to a solution of 1-(2-benzoyl-4-chlorophenyl)-2-(1-amino-1-dimethylcarbamoylmethylene)hydrazine (3.45 g) in tetrahydrofuran (70 ml) and dimethylformamide (20 ml). The resultant mixture is stirred at room temperature for 1 hour, mixed with potassium carbonate (1.38 g), stirred for 4 hours, and allowed to stand overnight. The reaction mixture is mixed with water and evaporated under reduced pressure to remove the solvents, and the residue is extracted with ethyl acetate. The organic layer is dried and evaporated to remove the ethyl acetate, whereby 1-(2-benzoyl-4-chlorophenyl-2-[1-(carbobenzoxy-L-alanylamino)-1-dimethylcarbamoylmethylene]hydrazine is obtained as a residue. The residue is mixed with acetic acid (30 ml) without purification, and the resultant solution is refluxed for 2 hours under heating. The reaction mixture is evaporated under reduced pressure to remove the acetic acid. The residue is extracted with chloroform, and the chloroform layer is washed with aqueous sodium bicarbonate and water in order, dried and evaporated to remove the chloroform. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate. The eluate is evaporated to give 5-chloro-2-[3-dimethylcarbamoyl-5-(1-carbobenzoxyaminoethyl)-1H-1,2,4-triazol -1-yl]benzophenone (1.4 g) as a gelatinous material.

reactant | carbobenzoxy-L-alanine | 4.48 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | phosphorus pentachloride | 4.58 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | carbobenzoxy-L-alanyl chloride | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)Cl | C11H12ClNO3
